US04344954
2,3,5,6,7,8-Hexahydro-2,3-diphenylthiazolo[3,2-a][1,3]-diazepin-3-ol hydrobromide
A 2.6 g. portion of hexahydro-2H-1,3-diazepin-2-thione is dissolved in 150 ml. of acetone and clarified. A 5.5 g. portion of 2-bromo-2-phenylacetophenone is added and the solution is refluxed for one hour and then stirred at room temperature for 16 hours. The solid is collected, washed with acetone and dried in vacuo at 60° C., giving 6.5 g. of the desired product, m.p. 195°-197° C. (dec.).

reactant | hexahydro-2H-1,3-diazepin-2-thione | N1C(NCCCC1)=S | C5H10N2S
reactant | 2-bromo-2-phenylacetophenone | BrC(C(=O)C1=CC=CC=C1)C1=CC=CC=C1 | C14H11BrO
solvent | acetone | CC(=O)C | C3H6O
product | 2,3,5,6,7,8-Hexahydro-2,3-diphenylthiazolo[3,2-a][1,3]-diazepin-3-ol hydrobromide | Br.C1(=CC=CC=C1)C1C(N2C(=NCCCC2)S1)(O)C1=CC=CC=C1 | InChI=1S/C19H20N2OS.BrH/c22-19(16-11-5-2-6-12-16)17(15-9-3-1-4-10-15)23-18-20-13-7-8-14-21(18)19;/h1-6,9-12,17,22H,7-8,13-14H2;1H
